US06541466B2
Step D—Removal of the Methoxyoxycarbonyl Group (MOC): To the 4-methoxycarbonylamino-1,2,3,4-tetrahydroisoquinoline-3-one (3.4 mmoles) in 30 mL of acetonitrile was added 2 mole equivalents of trimethylsilyliodide (TMSI). The reaction mixture was heated to 50-80° C. for 3 hrs and then cooled and poured into a seperatory funnel. The reaction mixture was diluted with ethyl acetate and washed with 1 molar K2CO3 and then with 5% NaHSO3. The organic layer was dried over Na2SO4 and filtered. The solvent was removed under reduced pressure to give the 4-amino-1,2,3,4-tetrahydroisoquinoline-3-one derivative. Typical yields range from 50-87%.

reactant | 4-methoxycarbonylamino-1,2,3,4-tetrahydroisoquinoline-3-one | 3.4 mmoles | COC(=O)NC1C(NCC2=CC=CC=C12)=O | C11H12N2O3
reactant | trimethylsilyliodide | C[Si](C)(C)I | C3H9ISi
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-amino-1,2,3,4-tetrahydroisoquinoline-3-one | NC1C(NCC2=CC=CC=C12)=O | C9H10N2O
